US05238602
385 mg of p-[trans-4-(1E-pentenyl)cyclohexyl]phenyl acetate were dissolved in 100 ml of a 1N solution of potassium hydroxide in methanol while gassing with argon and the mixture was stirred at room temperature for 30 minutes. Subsequently, the reaction mixture was poured into 80 ml of 1N hydrochloric acid and extracted three times with 60 ml of diethyl ether each time. The organic phases were washed twice with 60 ml of water each time, dried over magnesium sulphate and concentrated. There were obtained 328 mg (100%) of p-[trans-4-(1E-pentenyl)cyclohexyl]phenol as colourless crystals; Rf-value (ethyl acetate/petroleum ether vol. 10:90) 0.17.

reactant | p-[trans-4-(1E-pentenyl)cyclohexyl]phenyl acetate | 385 mg | C(C)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)\C=C\CCC | C19H26O2
reactant | hydrochloric acid | 1N, 80 ml | Cl | ClH
solvent | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | p-[trans-4-(1E-pentenyl)cyclohexyl]phenol | 328 mg, 100% | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C17H24O
